US04743585
α-Bromo-N-[(1-hydroxymethyl)-3-methylbutyl]benzeneacetamide (α-center is RS, other center with NH-substituent is S), 9.1 g (0.029 mole), was dissolved in 200 ml of tetrahydrofuran, the solution is cooled to 0°-5° and 1.65 g (0.0413 mole) of 60% sodium hydride in mineral oil dispersion slowly added. The mixture was allowed to reach room temperature and stirred overnight, the solvent was evaporated in vacuo and the residue dissolved in 200 ml of dichloromethane and extracted twice with water. The dichloromethane layer was separated, dried over sodium sulfate, evaporated in vacuo and the residue chromatographed using 200 g of silica gel and eluting with 1 l of dichloromethane-methanol (99.5:0.5) to give 5-(2-methylpropyl)-2-phenyl-3-morpholinone (center phenyl is R, S, other center is S), 5.48 g; [α]D25 =-22.9° (C, 0.62, methanol).

reactant | α-Bromo-N-[(1-hydroxymethyl)-3-methylbutyl]benzeneacetamide | BrC(C(=O)NC(CC(C)C)CO)C1=CC=CC=C1 | C14H20BrNO2
reactant | sodium hydride | 0.0413 mole, 1.65 g | [H-].[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 5-(2-methylpropyl)-2-phenyl-3-morpholinone | CC(CC1COC(C(N1)=O)C1=CC=CC=C1)C | C14H19NO2
